US06982278B2
2-(4-{2-[2-(4-Cyanophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester
2-(4-{2-[2-(4-Bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester (170 mg, 0.35 mmol), copper (I) cyanide (96 mg, 1.07 mmol), and copper (I) iodide (120 mg, 0.63 mmol) were dissolved in dimethylformamide (1.5 mL) and heated to 150° C. for 20 h. The mixture was cooled ambient temperature and partitioned between EtOAc (20 mL) and saturated aqueous FeCl3 (20 mL). The organic phase was washed with FeCl3 solution, H2O, brine and then dried (MgSO4), filtered and concentrated. The product was purified by flash chromatography (15 mL SiO2, 40% EtOAc/hexanes) and obtained as a clear, colorless oil (132 mg, 87%). Rf=0.32 in 35% EtOAc/hexanes; 1H NMR (400 MHz, CDCl3) δ 8.04 (d, J=8.4 Hz, 2H), 7.69 (d, J=8.4 Hz, 2H), 6.81-6.76 (m, 4H), 4.21 (q, J=6.4 Hz, 2H), 4.18 (t, J=6.4 Hz, 2H), 2.95 (t, J=6.4 Hz, 2H), 2.38 (s, 3H), 1.51 (s, 6H), 1.26 (t, J=7.2 Hz, 3H); MS (EI) 457.2 (M+Na)+; 435.2 (M+H)+.

reactant | 2-(4-{2-[2-(4-Bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | 0.35 mmol, 170 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C24H26BrNO5
reactant | copper (I) cyanide | 1.07 mmol, 96 mg | [Cu]C#N
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 0.63 mmol, 120 mg | [Cu]I
product | 2-(4-{2-[2-(4-Cyanophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | 132 mg, 87% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C#N)=O | C25H26N2O5
